Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
angioedema
 
Major Surgical or Invasive Procedure:
- Endotracheal intubation
- NSAIDs / aspirin added as an allergy (adverse reaction - 
possible angioedema)
 
History of Present Illness:
___ with h/o ___ transferred from OSH with 
angioedema s/p intubation. She presented to OSH with swelling 
and respiratory distress.  She was emergenty intubated by 
anesthesia with a glidescope and transferred to ___ ED for 
further management.  

In the ED, vitals were: 87 101/66 14 100% after initial BP of 
85/59. ABG 7.35/37/230 on CMV 450x14, 50% FiO2 and PEEP of 5. 
EKG unremarkable.  She was bucking the vent so sedation was 
increased with fentanyl and propofol.  Per EMT report, pt was 
agitated at OSH and might have self extubated with subsequent 
re-intubation (but not sure if this is true).  

In ED, pt's uncle accompanied her and reports that this has 
never happened to her before and no one else in the family has 
had this happen to the best of his knowledge.  She is not on an 
ACE-I and only other medications that she takes is tylenol, 
stool softeners and methimazole.

At the OSH ED, pt noted to have marked tongue swelling, R > L 
and was emergently intubated for airway protection. No report of 
stridor or breathing. Pt put on fentanyl gtt and propofol gtt. 
Per documentation sent from OSH, pt given solumedrol, benadryl 
and pepcid.

On arrival to the MICU, pt is intubated and sedated on fent gtt 
and propofol gtt.

Upon speaking to pt's uncle who obtained collateral info from 
pt's sister who was present this AM, pt was in her usual state 
of health yesterday.  She took ibuprofen yesterday at 9:30pm for 
abdominal cramps and then had trouble falling asleep. She awoke 
from sleep at 3:20am complaining that her tongue was getting 
large and swelling. She was having trouble managing her saliva. 
She had called her uncle and he reports she was able to speak 
normally. As her tongue got bigger, she was having some trouble 
breathing so went to the OSH ED. Sister denies flushing, rash, 
pruritis, stridor or wheezing. Her tongue was large and red with 
small blister on the R side. She denies intake of abnormal foods 
or new meds. She is not on an ACEI or BP meds. This not happened 
before and no famHx of similar event per uncle's report.

 
Past Medical History:
- Hyperthyroidism
- Menometrorrhagia on OCPs
- Iron deficiency anemia

 
Social History:
___
Family History:
- no h/o angioedema

 
Physical Exam:
Admission PE:
Vitals: afebrile, 88, 104/69, 99% on CMV 450x14, 50%, PEEP 5 
General- ___ female, intubated, sedated
HEENT- enlarged tongue protruding from mouth, no periorbital 
edema
Neck- supple
CV- RRR, systolic murmur at RUSB
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
uterus palpable 6cm below umbilicus
GU- +foley  
Ext- warm, well perfused, no ___ edema
Neuro- intubated sedated, awakes to verbal stimuli
Skin- no rashes or urticaria visible
.
Discharge PE:
hemodynamically stable, resolution of angioedema, breathing 
comfortably, speaking normally
 
Pertinent Results:
Admission Labs:
___ 10:17AM   GLUCOSE-130* UREA N-5* CREAT-0.5 SODIUM-137 
POTASSIUM-5.1 CHLORIDE-110* TOTAL CO2-20* ANION GAP-12
___ 10:17AM   ALT(SGPT)-15 AST(SGOT)-28 LD(LDH)-446* ALK 
PHOS-101 TOT BILI-0.2
___ 10:17AM   CALCIUM-7.7* PHOSPHATE-2.4* MAGNESIUM-2.0
___ 10:17AM   C3-134 C4-33
___ 10:17AM   WBC-6.8 RBC-3.72* HGB-9.2* HCT-29.4* MCV-79* 
MCH-24.7* MCHC-31.2 RDW-19.6*
___ 10:17AM   NEUTS-81.5* LYMPHS-16.2* MONOS-1.0* EOS-0.9 
BASOS-0.4
___ 10:17AM   PLT COUNT-494*
___ 07:19AM   TEMP-37.1 RATES-14/ TIDAL VOL-450 PEEP-5 
O2-50 PO2-230* PCO2-37 PH-7.35 TOTAL CO2-21 BASE XS--4 
-ASSIST/CON INTUBATED-INTUBATED
.
___ 12:27PM URINE  UCG-NEGATIVE
.
___ 10:17AM BLOOD C3-134 C4-33
___ 10:22AM BLOOD C1 INHIBITOR-PND
 
Brief Hospital Course:
___ woman with a h/o ___ transferred from OSH with 
angioedema s/p intubation for airway protection.

# Angioedema: Ms. ___ presented to ___ with 
tongue swelling c/w angioedema and was intubated for airway 
protection without clear report of respiratory distress or 
stridor/wheezing. The etiology for angioedema is not entirely 
clear. This is first event and she was not taking an ACEI. 
NSAIDs are the medication she is on that could be associated 
with angioedema, and she did take Motrin the night prior to 
developing facial and tongue swelling. Estrogens can also be 
associated so her OCP could be a rare culprit, so her OCPs were 
discontinued during this hospitalization. 

Her symptoms are mostly isolated angioedema and she does not 
have report of concurrent symptoms to suggest an allergic 
process associated with mast cell activation such 
pruritis/flushing or uricaria. This suggests more likely a 
bradykinin-mediated process. Given her young age and isolated 
angioedema, can also consider possibility of C1 inhibitor 
deficiency so C1 inhibitor level sent off. 

Therapeutically, she was given methylprednisone, IV benadryl and 
IV pepcid. Her swelling improved and she was extubated on 
hospital day 1. She was monitored for an additional 24 hours, 
and discharged with normal appearing oropharynx and tongue. 
NSAIDs were added to her allergy list and OCPs discontinued. She 
was clearly instructed to avoid these medications going forward, 
and she endorsed understanding of this recommendation. She will 
coordinate future birth control with her primary care physician 
and partner.

# Hyperthyroidism: There is no known association of methimazole 
with angioedema so home methimazole was continued.

# Menometrorrhagia: She has a h/o abnormal periods per report 
from her uncle, and is on OCPs. Uterus is palpable on exam so 
her abnormal periods may be related to fibroids. Urine pregnancy 
test was negative.

>> transitional issues:
- f/u with PCP ___ 1 week, consider out-patient Allergy 
evaluation
- New allergy: NSAIDs
- Studies pending at time of discharge: C1 inhibitor
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Necon ___ (28) *NF* (norethindrone-ethin estradiol) ___ 
mg-mcg Oral Daily 
2. Methimazole 20 mg PO DAILY 
3. Ferrous Sulfate 325 mg PO TID 
4. FoLIC Acid 1 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Senna 1 TAB PO HS:PRN constipation 
7. Acetaminophen 325-650 mg PO Q6H:PRN pain 
8. Ibuprofen 400 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Methimazole 20 mg PO DAILY 
3. Senna 1 TAB PO HS:PRN constipation 
4. Docusate Sodium 100 mg PO BID 
5. Ferrous Sulfate 325 mg PO TID 
6. Ferrous Sulfate 325 mg PO TID 
7. FoLIC Acid 1 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: angioedema

Secondary diagnosis: hyperthyroidism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure taking care of you in the hospital. You were 
admitted with swelling of your tongue, which is a condition that 
we call angioedema. You had a breathing tube put in to protect 
your airway because of the swelling. You were monitored in the 
intensive care unit on the breathing machine until the swelling 
decreased and then your breathing tube was removed. 

The cause of your tongue swelling is not entirely clear. It is 
very important to not take any medications like ibuprofen, 
aleve, naproxen, or other NSAID medications as they may have 
contributed to this swelling. You can take tylenol but you 
should call your doctor before taking any new medication to be 
sure that it will not cross-react with ibrofen like medications.

If you experience any repeated swelling in your tongue, lips or 
face or difficulty breathing, return to the emergency department 
IMMEDIATELY!
 
Followup Instructions:
___